US03975375
3-Ethanesulphonyl-imidazolidin-2-on-1-carbonyl chloride ##SPC63##
The N-ethanesulphonyl-imidazolidin-2-one was then suspended in dichloromethane, a large excess of phosgene was introduced at 0°C, a little pyridine was added and the mixture was left to stand overnight. The excess phosgene was then largely removed by passing in dry air and the product (3-ethanesulphonyl-imidazolidin-2-on-1-carbonyl chloride) was suspended in dichloromethane and filtered off.

reactant | N-ethanesulphonyl-imidazolidin-2-one | C(C)S(=O)(=O)N1C(NCC1)=O | C5H10N2O3S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Ethanesulphonyl-imidazolidin-2-on-1-carbonyl chloride | C(C)S(=O)(=O)N1C(N(CC1)C(=O)Cl)=O | C6H9ClN2O4S
